US06713476B2
(b) (tert-butoxy)-N-{[(hydroxymethyl)cyclopentyl]methyl}-N-(3-methylbutyl)carboxamide
To a solution of ({[(3-methylbutyl)amino]methyl}-cyclopentyl)methan-1-ol (700 mg, 3.7 mmol) in a 1:1 mixture of CH2Cl2/MeOH (20 ml) at 0 ° C. was added NaHCO3 (471 mg, 5.5 mmol) followed by Boc2O (967 mg, 4.4 mmol). The mixture was stirred at 0° C. for 30 min then warmed to rt and stirred for 1 hr. About 30 ml of H2O was added and the mixture was extracted with EtOAc (2×30 mL). The combined extracts were washed with water, dried over MgSO4, filtered and concentrated to colorless oil (300mg, 68%). MS [M+H]+300.

reactant | ({[(3-methylbutyl)amino]methyl}-cyclopentyl)methan-1-ol | 3.7 mmol, 700 mg | CC(CCNCC1(CCCC1)CO)C | C12H25NO
reactant | CH2Cl2 MeOH | 20 ml | C(Cl)Cl.CO
reactant | NaHCO3 | 5.5 mmol, 471 mg | C(=O)(O)[O-].[Na+]
reactant | Boc2O | 4.4 mmol, 967 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | H2O | 30 ml | O | H2O
product | (tert-butoxy)-N-{[(hydroxymethyl)cyclopentyl]methyl}-N-(3-methylbutyl)carboxamide | C(C)(C)(C)OC(=O)N(CCC(C)C)CC1(CCCC1)CO | C17H33NO3
